US06423713B1
methyl 1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-pyrrole-3-carboxylate
To a suspension of sodium hydride (1.0 g, 0.025 mol) in 50 mL of DMF was added methyl 4-imidazolecarboxylate (2.95 g, 0.023 mol) portionwise at room temperature. The mixture was stirred at room temperature for 0.5 hours. Then SEM-Cl (4.17 g, 0.025 mol) was added dropwise over 5 minutes. The reaction mixture was stirred for 4 hours and quenched by adding water. The aqueous phase was extracted with ethyl acetate and the organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated and the crude was purified by chromatography on silica gel (ethyl acetate/hexane, 8:2) to give 4.0 g of the major regioisomer as a clear oil.

reactant | sodium hydride | 0.025 mol, 1.0 g | [H-].[Na+]
reactant | methyl 4-imidazolecarboxylate | 0.023 mol, 2.95 g | N1C=NC(=C1)C(=O)OC | C5H6N2O2
reactant | SEM-Cl | 0.025 mol, 4.17 g | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl 1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-pyrrole-3-carboxylate | C[Si](CCOCN1C=C(C=C1)C(=O)OC)(C)C | C12H21NO3Si
